US07592347B2
(S)-1-Cyclobutyl-4-[1-(tert-butoxycarbonyl)-piperidine-4-carbonyl]-3-methylpiperazine (D24)
(S)-1-[1-(tert-Butoxycarbonyl)-piperidine-4-carbonyl]-2-methylpiperazine (D21)(0.13 g) and cyclobutanone (0.1 ml) were stirred in methanol (10 ml) at rt for 10 min and then sodium triacetoxyborohydride (0.26 g) was added and the reaction stirred at rt overnight. The reaction mixture was evaporated to a minimum and then redissolved in DCM (30 ml), and washed with saturated potassium carbonate solution (3×25 ml). The organic layer was dried (MgSO4) and evaporated to give the title compound (D24) as a clear oil (0.13 g).

reactant | (S)-1-[1-(tert-Butoxycarbonyl)-piperidine-4-carbonyl]-2-methylpiperazine | 0.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1[C@H](CNCC1)C | C16H29N3O3
reactant | cyclobutanone | 0.1 ml | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (S)-1-Cyclobutyl-4-[1-(tert-butoxycarbonyl)-piperidine-4-carbonyl]-3-methylpiperazine | 0.13 g | C1(CCC1)N1C[C@@H](N(CC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C20H35N3O3
